US07279467B2
15.2) 2-ethyl-1,3-benzoxazol-4-amine
2-ethyl-4-nitro-1,3-benzoxazole is hydrogenated under a pressure of 8 bars in the presence of 10% palladium on carbon (0.01 eq.) using methanol as a solvent. The catalyst is separated by filtration and the methanol is eliminated under reduced pressure. The residue is taken up in ethyl ether in order to produce a pale violet solid which is collected by filtration and dried. Melting point: 46° C.

reactant | 2-ethyl-4-nitro-1,3-benzoxazole | C(C)C=1OC2=C(N1)C(=CC=C2)[N+](=O)[O-] | C9H8N2O3
catalyst | palladium on carbon | 0.01 eq. | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-ethyl-1,3-benzoxazol-4-amine | C(C)C=1OC=2C(N1)=C(C=CC2)N | C9H10N2O
